US08383637B2
2-amino-5-benzoylbenzaldehyde
A mixture of 5-benzoyl-2-nitrobenzaldehyde (0.01 mol) in toluene was hydrogenated at room temperature and normal pressure with 5% Pd/C (2 g) as a catalyst in the presence of 4% thiophene solution (2 mL). After uptake of H2 gas (3 equiv.), the catalyst was filtered off and the filtrate was evaporated (water bath at 50° C.). The residue was dissolved in diethyl ether (10 mL) and crystallized out at room temperature. The crystals were filtered off, washed with a small amount of diethyl ether and diisopropyl ether, then dried (vacuum, 40° C.) to yield the title compound as a solid.

reactant | 5-benzoyl-2-nitrobenzaldehyde | 0.01 mol | C(C1=CC=CC=C1)(=O)C=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C14H9NO4
reactant | thiophene | 2 mL | S1C=CC=C1 | C4H4S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd/C | 2 g | [Pd] | Pd
product | 2-amino-5-benzoylbenzaldehyde | NC1=C(C=O)C=C(C=C1)C(C1=CC=CC=C1)=O | C14H11NO2
